US04036962
A mixture of 7 g. (0.051 mole) of 3,4-methylenedioxyaniline, 14.5 g. (0.051 mole) 2,2,2-trifluoroethyl trichloromethanesulfonate, and 5.2 g. (0.052 mole) of triethylamine in 60 ml. of toluene was heated under reflux for 31/2 hours. The cooled mixture was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The oily residue is distilled (b.p. 1.9 mm. 103°-5°) to give pure 3,4-methylenedioxy-N-(2,2,2-trifluoroethyl)aniline.

reactant | 3,4-methylenedioxyaniline | 0.051 mole | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | 2,2,2-trifluoroethyl trichloromethanesulfonate | 0.051 mole | ClC(S(=O)(=O)OCC(F)(F)F)(Cl)Cl | C3H2Cl3F3O3S
reactant | triethylamine | 0.052 mole | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,4-methylenedioxy-N-(2,2,2-trifluoroethyl)aniline | C1OC=2C=C(NCC(F)(F)F)C=CC2O1 | C9H8F3NO2
